US07589206B2
g) Ethyl 4-[(3-chlorophenyl)amino]-1H-pyrrolo[3,2-c]pyridine-7-carboxylate
A mixture of ethyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate (0.49 g), 3-chloroaniline (0.46 ml) and methanesulfonic acid (0.28 ml) in 1,4-dioxan (10 ml) was irradiated at 180° C. for 30 minutes with microwaves. The residue was partitioned between ethyl acetate and water, the aqueous layer was separated, basified with an aqueous 2M sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated to afford the title compound as a brown solid (0.91 g).

reactant | ethyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 0.49 g | ClC1=NC=C(C2=C1C=CN2)C(=O)OCC | C10H9ClN2O2
reactant | 3-chloroaniline | 0.46 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | methanesulfonic acid | 0.28 ml | CS(=O)(=O)O | CH4O3S
solvent | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | Ethyl 4-[(3-chlorophenyl)amino]-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 0.91 g | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2)C(=O)OCC | C16H14ClN3O2
